US09085555B2
B. 1-(5-Methyl-1H-pyrazolo[3,4-c]pyridin-3-yl)-ethanone
A solution of 3-bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine (2.13 g, 10.04 mmol), tri-butyl(1-ethoxyvinyl)tin (6.78 mL, 20.09 mmol) and PdCl2(PPh3)2 (0.705 mg, 1 mmol) in DMF (12.6 mL) was heated at 80° C. overnight under argon atmosphere. Then concentrated under reduced pressure and diluted with EtOAc. HCl (2N) was added, the layers were separated and the aqueous layer was basified by addition of NaHCO3 (1N in water) and extracted with EtOAc (3×). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The yellow oil thus obtained was used without further purification in the next step. TLC, Rf (c-hexane/EtOAC 1:1)=0.05; MS (UPLC/MS): 176 [M+H]+, 174 [M−H]−.

reactant | 3-bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine | 10.04 mmol, 2.13 g | BrC1=NNC2=CN=C(C=C21)C | C7H6BrN3
reactant | tri-butyl(1-ethoxyvinyl)tin | 20.09 mmol, 6.78 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | DMF | 12.6 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 1 mmol, 0.705 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(5-Methyl-1H-pyrazolo[3,4-c]pyridin-3-yl)-ethanone | CC=1C=C2C(=CN1)NN=C2C(C)=O | C9H9N3O
